US06344483B1
Ex-7c) A mixture of 25 g ethyl trans-2-acetamido-2-carbethoxy-6-phthalimido-4-hexenoate and 200 mL 37% HCl is heated under reflux for 20 h and then left at 0-2° C. for 20 h. It is then filtered to remove phthalic acid and the filtrate is reduced to dryness in vacuo. 100 mL of absolute ethanol is then added and evaporated under vacuum. Residual solid is taken up in 100 mL absolute ethanol and filtered to give 13 g of trans-2,6-Diamino-4-hexenoic acid dihydrochloride.

reactant | ethyl trans-2-acetamido-2-carbethoxy-6-phthalimido-4-hexenoate | 25 g | C(C)(=O)NC(C(=O)OCC)(C\C=C\CN1C(C=2C(C1=O)=CC=CC2)=O)C(=O)OCC | C21H24N2O7
reactant | HCl | 200 mL | Cl | ClH
product | trans-2,6-Diamino-4-hexenoic acid dihydrochloride | 13 g | Cl.Cl.NC(C(=O)O)C\C=C\CN | InChI=1S/C6H12N2O2.2ClH/c7-4-2-1-3-5(8)6(9)10;;/h1-2,5H,3-4,7-8H2,(H,9,10);2*1H/b2-1+;;
